US07595415B2
Triphenylphosphine (3.44 g, 13.1 mmol) was dissolved in dichloromethane (25 ml) in nitrogen atmosphere, carbon tetrabromide (2.18 g, 6.56 mmol) was added little by little under cooling with ice, and triethylamine (4.4 ml, 26.2 mmol) was dropwise added, followed by stirring for 10 minutes. Then, under cooling with ice, a dichloromethane solution (20 ml) of 4-(tert-butyldimethylsilyloxy)benzaldehyde (10.0 g, 73.4 mmol) prepared in 1) was dropwise added, followed by stirring for 1 hour. Silica gel (50 g) was added to the reaction solution, the reaction solution was concentrated under reduced pressure to dryness, and the resulting product was purified by silica gel column chromatography (hexane:ethyl acetate=20:1, containing 0.1% v/v triethylamine) to give 1,1-dibromo-2-(tert-butyldimethylsilyloxyphenyl)ethylene (2.77 g, 81%) as a pale yellow oily substance.

reactant | Triphenylphosphine | 13.1 mmol, 3.44 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrabromide | 6.56 mmol, 2.18 g | C(Br)(Br)(Br)Br | CBr4
reactant | triethylamine | 26.2 mmol, 4.4 ml | C(C)N(CC)CC | C6H15N
reactant | 4-(tert-butyldimethylsilyloxy)benzaldehyde | 73.4 mmol, 10.0 g | [Si](C)(C)(C(C)(C)C)OC1=CC=C(C=O)C=C1 | C13H20O2Si
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 1,1-dibromo-2-(tert-butyldimethylsilyloxyphenyl)ethylene | 2.77 g, 81% | BrC(=CC1=C(C=CC=C1)O[Si](C)(C)C(C)(C)C)Br | C14H20Br2OSi
